US07214673B2
(S)-10-{3-[2-(3-Fluoro-phenyl)-ethyl]-piperazin-1-yl}-2-methyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene
By using a similar method to the method of Example 460, using 2-methyl-4H-3-thia-1,4,9-triaza-benzo[f]azulen-10-ylamine(1.25 g, 5.42 mmol) and (S)-2-[2-(3-fluoro-phenyl)-ethyl]-piperazine (1.13 g, 5.42 mmol) gives 1.06 g of the title compound as a tan solid: mass spectrum (ion spray): m/z=422 (M+1); Analysis for C23H24FN5S(0.2 H2O): calcd: C, 64.98; H, 5.78; N, 16.47; found: C, 65.18; H, 5.91; N, 16.17.

reactant | 2-methyl-4H-3-thia-1,4,9-triaza-benzo[f]azulen-10-ylamine | 5.42 mmol, 1.25 g | CC1=NC=2C(=NC3=C(NC2S1)C=CC=C3)N | C11H10N4S
reactant | (S)-2-[2-(3-fluoro-phenyl)-ethyl]-piperazine | 5.42 mmol, 1.13 g | FC=1C=C(C=CC1)CC[C@@H]1NCCNC1 | C12H17FN2
product | (S)-10-{3-[2-(3-Fluoro-phenyl)-ethyl]-piperazin-1-yl}-2-methyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene | 1.06 g | FC=1C=C(C=CC1)CC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=NC13)C)C=CC=C2 | C23H24FN5S
